US07741341B2
127 mg (0.20 mmol) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester were dissolved in 15 mL CH2Cl2. At 0° C. 1.8 mL (1.8 mmol) of a 1 M BBr3-solution were added. The reaction mixture was stirred for 24 h at room temperature. Because of incomplete conversion further 0.9 mL (0.9 mmol) of a 1 M BBr3-solution were added. After stirring for 24 h at room temperature the reaction mixture was concentrated and purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid). 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid was obtained as a light brown, amorphous solid. Yield: 73 mg MS (ES+): m/e=549, chloro pattern.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.20 mmol, 127 mg | COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O)CC(NC2=NC=C(C=C2)Cl)=O | C27H23ClN6O6
reactant | BBr3 | 1 M | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1 M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O | C26H21ClN6O6
